US04028089
The procedure described in Example 1 is repeated using, instead of 3,3-bis(methylthio)-2-cyanoacrylonitrile, an equivalent amount of 3,3-bis(methylthio)-2-cyanoacrylic acid allyl ester in 100 ml. of allyl alcohol and holding the mixture under reflux for 7 hours to obtain 2-benzoxazolinylidene-cyanoacetic acid allyl ester of melting point 181°-183° C. (from ethyl acetate).

reactant | 3,3-bis(methylthio)-2-cyanoacrylonitrile | CSC(=C(C#N)C#N)SC | C6H6N2S2
reactant | 3,3-bis(methylthio)-2-cyanoacrylic acid allyl ester | C(C=C)OC(C(=C(SC)SC)C#N)=O | C9H11NO2S2
reactant | allyl alcohol | C(C=C)O | C3H6O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzoxazolinylidene-cyanoacetic acid allyl ester | C(C=C)OC(C(=C1OC2=C(N1)C=CC=C2)C#N)=O | C13H10N2O3
